* delta sigma A/D converter 9 bit
* first-order continuous time delta sigma modulator
* sinc filter with counter
* according to Schreier, Temes: Understanding Delta-Sigma Data Converters, 2005
* Fig. 2.13, p. 31; Fig. 2.27, p.58

** sine input signal parameters
.param infreq=500 inampl=0.5
** clock
.param clkfreq=5Meg
** simulation time
.param simtime = 2m
.csparam simtime = 'simtime'
** sample clock cycles
.param samples=500

.global dzero done

.options interp ; strongly reduces memory requirements

** input signal
* SIN(VO VA FREQ TD THETA)
vin inp inm dc 0 sin(0 'inampl' 'infreq' 0 0)
* steps from -0.5 to 0.4
*vin inp inm dc 0 pwl(0 -0.5 0.2m -0.5 0.201m -0.4 0.4m -0.4 0.401m -0.3 0.6m -0.3
*+  0.601m -0.2 0.8m -0.2  0.801m -0.1 1.0m -0.1  1.001m 0.0 1.2m 0.0  1.201m 0.1 1.4m 0.1 
*+  1.401m 0.2 1.6m 0.2 1.601m 0.3 1.8m 0.3 1.801m 0.4 2m 0.4)

** clock and constant logic levels
* PULSE(V1 V2 TD TR TF PW PER)
vclk aclk 0 dc 0 pulse(0 1 0.1u 2n 2n '1/clkfreq/2' '1/clkfreq')

* digital one
* digital zero
vone aone 0 dc 1
vzero azero 0 dc 0
abridge1 [aone azero] [done dzero] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)

* digital clock
abridge2 [aclk] [dclk] adc_buff
.model adc_buff adc_bridge(in_low = 0.5 in_high = 0.5)

****** delta-sigma converter****************************************************************
* modulator
* inp inm: analog in + -
* dclk digital clock in
* dv, dvb: modulator non-inverting/inverting out
Xmod inp inm dclk dv dvb mod1
* sinc filter, decimator
* dlout1 ..dlout10: converter 10 bit digital out
xsinc dv dvb dclk  dlout1 dlout2 dlout3 dlout4 dlout5 dlout6 dlout7 dlout8 dlout9 dlout10 sinc1
********************************************************************************************

** DACs for measuring and plotting
* converter output
Xdac_latch dlout1 dlout2 dlout3 dlout4 dlout5 dlout6 dlout7 dlout8 dlout9 dlout10 adaclout dac10 
* counter inside of sinc filter
Xdac_counter xsinc.dout1 xsinc.dout2 xsinc.dout3 xsinc.dout4 xsinc.dout5
+ xsinc.dout6 xsinc.dout7 xsinc.dout8 xsinc.dout9 xsinc.dout10 adaccout dac10

* load modulator mod1 subcircuit
.include mod1-ct.cir

* load counter, d-latch and 10 bit DAC
.include count-latch-dac.cir

** sinc filter 1st order subcircuit
.subckt sinc1 din dinb dclk dlout1 dlout2 dlout3 dlout4 dlout5 dlout6 dlout7 dlout8 dlout9 dlout10
XCounter din dinb dclk ddivndel2 dout1 dout2 dout3 dout4 dout5 dout6 dout7 dout8 dout9 dout10 count10
Xlatch dout1 dout2 dout3 dout4 dout5 dout6 dout7 dout8 dout9 dout10
+ dlout1 dlout2 dlout3 dlout4 dlout5 dlout6 dlout7 dlout8 dlout9 dlout10 ddivndel1
+ latch10

* digital divider dclk/samples
adivn dclk ddivn divider
.model divider d_fdiv(div_factor = 'samples' high_cycles = 1
+ i_count = 0 rise_delay = 1e-9 fall_delay = 1e-9)

* clock delays
adelay ddivn ddivndel1 buff1 ; set latch
adelay2 ddivndel1 ddivndel2 buff1 ; reset counter
.model buff1 d_buffer(rise_delay = '1/clkfreq/8' fall_delay = '1/clkfreq/8'
+ input_load = 0.5e-12)

.ends sinc1

** for plotting
abridge22 [dclk xsinc.ddivndel1 xsinc.ddivndel2 dv] [acclk acset acres acin] dac1
.model dac1 dac_bridge(out_low = 0 out_high = 1 out_undef = 0.5
+ input_load = 5.0e-12 t_rise = 1e-9
+ t_fall = 1e-9)


.control
esave none
save inp inm adaclout adaccout ; save memory space
tran 0.1u $&simtime
rusage
set xbrushwidth=2
* analog out, scaled 'manually'; sinc filter counter; analog differential in
plot 4.1*(adaclout-0.486) adaccout v(inp)-v(inm) ylimit -0.6 0.6 ylabel 'input, output and external signals'
* modulator dig out
* eprint dv > digi1.txt
* 
*eprint dlout1 dlout2 dlout3 dlout4 dlout5 dlout6 dlout7 dlout8 dlout9 dlout10 
*+ xsinc.dout1 xsinc.dout2 xsinc.dout3 xsinc.dout4 xsinc.dout5
*+ xsinc.dout6 xsinc.dout7 xsinc.dout8 xsinc.dout9 xsinc.dout10 > digi4b.txt
.endc

.end
